US08748340B2
Preparation of (Z)—(N′-(2,6-dimethylphenyl)-N-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropyl)-carbamimidoylthio)methyl isobutyrate (Compound 15)
To a solution of 1-(2,6-dimethylphenyl)-3-(2-(4-(1-(4-(trifluoromethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropyl)thiourea (75 mg, 0.143 mmol) in chloroform (CHCl3; 0.72 mL) was added chloromethyl isobutyrate (31.1 mg, 0.172 mmol). The mixture was heated at 100° C. for 1 h. The mixture was cooled to 25° C., and the residue was purified by silica gel chromatography (EtOAc-hexanes gradient) to afford the title compound (17.3 mg, 19%) as a yellow oil: IR νmax 3332 (br), 3124, 2976, 2939, 1739, 1631, 1590, 1518, 1264, 1171, 986 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.09 (d, J=8.3 Hz, 2H), 7.79 (d, J=9.0 Hz, 2H), 7.37 (d, J=8.3 Hz, 2H), 7.20 (d, J=7.2 Hz, 2H), 7.02 (d, J=7.5 Hz, 2H), 6.88 (t, J=7.5 Hz, 1H), 5.65 (br s, 2H), 2.88 (br s, 1H), 2.68-2.52 (m, 1H), 2.10 (s, 6H), 1.82-1.46 (m, 2H), 1.46-1.22 (m, 2H), 1.22-1.18 (m, 6H); ESIMS m/z 624 (M+H).

reactant | 1-(2,6-dimethylphenyl)-3-(2-(4-(1-(4-(trifluoromethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropyl)thiourea | 0.143 mmol, 75 mg | CC1=C(C(=CC=C1)C)NC(=S)NC1C(C1)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C27H24F3N5OS
reactant | chloromethyl isobutyrate | 0.172 mmol, 31.1 mg | C(C(C)C)(=O)OCCl | C5H9ClO2
solvent | chloroform | 0.72 mL | C(Cl)(Cl)Cl | CHCl3
product | (Z)—(N′-(2,6-dimethylphenyl)-N-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)cyclopropyl)-carbamimidoylthio)methyl isobutyrate | 17.3 mg, 19% | C(C(C)C)(=O)OCS\C(\NC1C(C1)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)=N/C1=C(C=CC=C1C)C | C32H32F3N5O3S
